US04783453
A solution of benzyl 2-azido-carbapen-2-em-3-carboxylate (5.3 mg, 19 micromol) and vinyl acetate (100 microliter) in dry dichloromethane (200 microliter) was treated with excess sodium bicarbonate and kept 3 days at ambient temperature. The mixture was filtered through florisil, the florisil was washed with ethyl acetate (25 ml), and the combined filtrate and wash was evaporated under vacuum. The residue was chromatographed on one 20 cm×20 cm 250 micron silica gel preparative thin layer chromatography plate developed with 9:1 (v/v) diethyl ether-ethyl acetate. Product was eluted with ethyl acetate and the eluate evaporated under vacuum to provide 1.2 mg (19%) benzyl 2-(2-acetoxyaziridin-1-yl)-carbapen-2-em-3-carboxylate; IR (CH2Cl2): 1770, 1735 cm-1 ; NMR (CDCl3): δ 1.92 bt (J=6.5 Hz, 1H), 2.08 t (J=7 Hz, 1H), 2.13 s (3H), 2.70 dd (J, 6 Hz, J2 =17 Hz, 1H), 2.76 dd (J1 =6 Hz, J2 =17 Hz, 1H), 2.86 dd (J1 =2 Hz, J2 =15 Hz, 1H), 3.24 dd (J1 =5 Hz, J2 =15 Hz, 1H), 4.16 m (1H), 4.79 bt (J=7 Hz, 1H), 5.17 s (2H), 7.37 m (5H).

reactant | benzyl 2-azido-carbapen-2-em-3-carboxylate | 19 micromol, 5.3 mg | N(=[N+]=[N-])C=1C[C@H]2N(C1C(=O)OCC1=CC=CC=C1)C(C2)=O | C14H12N4O3
reactant | vinyl acetate | 100 microliter | C(C)(=O)OC=C | C4H6O2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | dichloromethane | 200 microliter | ClCCl | CH2Cl2
product | benzyl 2-(2-acetoxyaziridin-1-yl)-carbapen-2-em-3-carboxylate | 1.2 mg, 19% | C(C)(=O)OC1N(C1)C=1C[C@H]2N(C1C(=O)OCC1=CC=CC=C1)C(C2)=O | C18H18N2O5
